* C:\Users\theac\OneDrive\Documents\GitHub\Lovers Rock\ltspice\Draft2.asc
XU4 N011 N007 Vpow 0 N007 LT1001
V1 Vs 0 SINE(0 50m {Freq}) AC 1
Cin1 N011 Vs 100nf
R1 Vref N011 1Meg
Rout1 N010 N007 470
C6 Vin N010 1µF
XU5 Vin N005 Vpow 0 N006 LT1001
R§Pot1 N006 N005 250K
R7 N002 N005 10K
D1 N005 N006 1N4148
D2 N006 N005 1N4148
C7 Vref N002 47nF
C8 N006 N005 330pF
XU6 N009 N003 Vpow 0 N004 LT1001
C9 Vod N012 1µF
C10 N004 N003 51pF
R§Pot2 N004 N003 500K
D3 N008 Vref 1N4148
D4 Vref N008 1N4148
R15 N012 N006 470
R16 N009 Vref 1Meg
Rpull1 0 Vs 1Meg
R17 N003 Vod 1K
V4 N001 0 9V
R18 Vpow Vref 10K
R19 Vref 0 10K
C11 Vref 0 47µ
R22 N008 N004 10K
C17 Vpow 0 100µF
D5 N001 Vpow D
R28 Vin Vref 1Meg
XU1 N015 N014 Vpow 0 N014 LT1001
R3 Vref N015 1Meg
C1 N015 N018 100n
R4 N014 N018 100
XU2 N021 N022 Vpow 0 N022 LT1001
R6 Vref N021 1Meg
R8 N022 N020 100
C4 N020 Vref 4.7n
XU3 N019 N016 Vpow 0 N017 LT1001
R13 N017 N016 100K
R21 Vvc N017 1K
R23 N019 Vref 1Meg
C5 Output Vvc 100n
R2 N016 N018 10K
R10 N016 N020 10K
C12 N021 N020 4.7n
C13 Vref N018 100n
R5 N018 Vds 10K
R9 N020 Vds 10K
C3 Vds N008 1µ
R12 Vref Vvc 10K
R11 0 Output 1Meg
.model D D
.lib C:\Users\theac\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
* Overdrive Stage
* Distortion Stage
* Post Distortion Filtering
;ac dec 50 10 100K
* Power / Input Stage
* Volume Control
.param Freq=300
.step param Freq LIST 150 300 500 1K 2K 3k
.tran 10m
.lib LTC.lib
.backanno
.end
